### PR TITLE
fix(GreensOpenProblems/39): `variant_theta`

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
@jeangud can you have a look how to fix this best?
1. Fix the number of translates to scale appropriately (e.g., use ⌊C * p^(1-θ)⌋₊ translates instead of ⌊C * p^θ⌋₊), or
2. Be rewritten as a family of individual conjectures parameterized by θ, each asking "can you cover with p^(1-θ+ε) translates?" or similar, or
 3. Simply be removed/rephrased, since Green's remark was informal and didn't specify the exact scaling for general θ.

File: FormalConjectures/GreensOpenProblems/39.lean [hunk 1]
```diff
@@ -102,18 +102,147 @@ theorem green_39.variant_101 : answer(sorry) ↔
...
+    have h_tendsto_0 : Tendsto
+        (fun p : {q : ℕ // q.Prime} ↦
+          let k := ⌊(p.val : ℝ) ^ (1/4 : ℝ)⌋₊
+          let c := ⌊C * (p.val : ℝ) ^ (1/4 : ℝ)⌋₊
+          (proportionCoverable p.val k c : ℝ))
+        atTop (𝓝 0) := by
+      apply tendsto_const_nhds.congr'
+      exact h_ev.mono (fun x hx => hx.symm)
+    have h_eq : (0 : ℝ) = 1 := tendsto_nhds_unique h_tendsto_0 hTendsto
+    linarith
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/39.lean]:
```suggestion
@[category research open, AMS 5 60]
theorem green_39.variant_theta : answer(sorry) ↔
    ∀ (θ : ℝ), 0 < θ → θ ≤ 1/2 →
    ∃ C > 1, Tendsto
      (fun p : {q : ℕ // q.Prime} ↦
        let k := ⌊(p : ℝ) ^ θ⌋₊
        let c := ⌊C * (p : ℝ) ^ (1 - θ)⌋₊
        (proportionCoverable p k c : ℝ))
      atTop (𝓝 1) := by
  sorry

end Green39
```

File: FormalConjectures/GreensOpenProblems/39.lean [hunk 2]
```diff
@@ -102,18 +102,147 @@ theorem green_39.variant_101 : answer(sorry) ↔
...
+    exact_mod_cast h_final
+  · push_neg at hC
+    have h_c_zero : ⌊C * (p : ℝ) ^ (1/4 : ℝ)⌋₊ = 0 := by
+      apply Nat.floor_eq_zero.mpr
+      exact lt_trans hC (by norm_num)
+    rw [h_c_zero, mul_zero]
+    exact_mod_cast hp_pos
 /--
 Similar questions are interesting with $\sqrt{p}$ replaced by $p^\theta$ for any $\theta \le 1/2$. [Gr24]
 -/
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/39.lean:113]:
```suggestion

NOTE: using $C p^\theta$ translates as stated makes the conjecture trivially false by the pigeonhole
principle. Indeed for a set of size $p^\theta$, we cover at most $C p^{2\theta}$ elements, which is
strictly less than $p$ for $\theta < 1/2$. We interpret the question as asking whether
$O(p^{1-\theta})$ translates suffice. This generalizes the main conjecture where
$\sqrt{p} = p^{1-1/2}$.
-/
```

File: FormalConjectures/GreensOpenProblems/39.lean [hunk 3]
```diff
@@ -102,18 +102,147 @@ theorem green_39.variant_101 : answer(sorry) ↔
...
+        rw [h_rpow_eq]
+        exact this
+    have h_final : (⌊(p : ℝ) ^ (1/4 : ℝ)⌋₊ : ℝ) * (⌊C * (p : ℝ) ^ (1/4 : ℝ)⌋₊ : ℝ) < p := lt_of_le_of_lt h_mul h_p_sqrt
+    exact_mod_cast h_final
+  · push_neg at hC
+    have h_c_zero : ⌊C * (p : ℝ) ^ (1/4 : ℝ)⌋₊ = 0 := by
+      apply Nat.floor_eq_zero.mpr
+      exact lt_trans hC (by norm_num)
+    rw [h_c_zero, mul_zero]
+    exact_mod_cast hp_pos
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/39.lean]:
```suggestion
```

**Review by jeangud — COMMENTED** [review]
@mo271 thank you for catching that, and for the suggestions!

I think your first suggestion with $1 - \theta$ is the most natural, and directly compatible with the original conjecture too.

I inlined some suggestions so we can directly file from your present PR:
- Remove counterexample proofs
- Change to `⌊C * (p : ℝ) ^ (1 - θ)⌋₊`
- Add note justifying our interpretation

File: FormalConjectures/GreensOpenProblems/39.lean [hunk 4]
```diff
@@ -104,16 +104,54 @@ theorem green_39.variant_101 : answer(sorry) ↔
...
-theorem green_39.variant_theta : answer(sorry) ↔
+@[category research solved, AMS 5 60]
+theorem green_39.variant_theta : answer(False) ↔
     ∀ (θ : ℝ), 0 < θ → θ ≤ 1/2 →
     ∃ C > 1, Tendsto
       (fun p : {q : ℕ // q.Prime} ↦
         let k := ⌊(p : ℝ) ^ θ⌋₊
         let c := ⌊C * (p : ℝ) ^ θ⌋₊
         (proportionCoverable p k c : ℝ))
       atTop (𝓝 1) := by
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/39.lean]:
```suggestion
@[category research open, AMS 5 60]
theorem green_39.variant_theta : answer(sorry) ↔
    ∀ (θ : ℝ), 0 < θ → θ ≤ 1/2 →
    ∃ C > 1, Tendsto
      (fun p : {q : ℕ // q.Prime} ↦
        let k := ⌊(p : ℝ) ^ θ⌋₊
        let c := ⌊C * (p : ℝ) ^ (1 - θ)⌋₊
        (proportionCoverable p k c : ℝ))
      atTop (𝓝 1) := by
  sorry
```

File: FormalConjectures/GreensOpenProblems/39.lean [hunk 5]
```diff
@@ -104,16 +104,55 @@ theorem green_39.variant_101 : answer(sorry) ↔
...
+    have h_tendsto_0 : Tendsto
+        (fun p : {q : ℕ // q.Prime} ↦
+          let k := ⌊(p.val : ℝ) ^ (1/4 : ℝ)⌋₊
+          let c := ⌊C * (p.val : ℝ) ^ (1/4 : ℝ)⌋₊
+          (proportionCoverable p.val k c : ℝ))
+        atTop (𝓝 0) := by
+      apply tendsto_const_nhds.congr'
+      exact h_ev.mono (fun x hx => hx.symm)
+    have h_eq : (0 : ℝ) = 1 := tendsto_nhds_unique h_tendsto_0 hTendsto
+    linarith
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/39.lean]:
```suggestion
```

**Review by jeangud — APPROVED** [review]
Thank you again!

My first "Approve" on this repo: looks good from my side but feel free to get a second opinion.
